US08633312B2
2-(2,4-Difluoroanilino)-7-(2-morpholin-4-yl-ethoxy)-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one (141)
For the preparation of the compound by method C, 0.67 g (1.8 mmol) of 2-chloro-7-(2-morpholin-4-yl-ethoxy-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one, 0.25 g (1.9 mmol) of 2,4-difluoroaniline, 0.05 g (0.22 mmol) of Pd(OAc)2, 0.10 g (0.21 mmol) of 2-(dicyclohexylphosphino)-2′-,4′-,6′-triisopropyl-biphenyl, 0.70 g (6.2 mmol) of KOt-Bu, 5 ml of toluene and 1 ml of t-BuOH are used. Yield: 76%; C24H21F2NO4 (Mr=425.44)

reactant | 2-morpholin-4-yl-ethoxy-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one | N1(CCOCC1)CCOC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C21H23NO3
reactant | 2,4-difluoroaniline | 1.9 mmol, 0.25 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | 2-(dicyclohexylphosphino)-2′-,4′-,6′-triisopropyl-biphenyl | 0.21 mmol, 0.10 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | KOt-Bu | 6.2 mmol, 0.70 g | CC(C)(C)[O-].[K+]
catalyst | Pd(OAc)2 | 0.22 mmol, 0.05 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | t-BuOH | 1 ml | CC(C)(C)O | C4H10O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,4-Difluoroanilino)-7-(2-morpholin-4-yl-ethoxy)-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one | Yield: 76% | FC1=C(NC2=CC3=C(C(C4=C(CC3)C=CC(=C4)OCCN4CCOCC4)=O)C=C2)C=CC(=C1)F | C27H26F2N2O3
